US04997847
(ii) 9-(4-Chlorobenzenesulphonamido)nonanoic Acid
9-(4-Chlorobenzenesulphonamido)nonanenitrile (0.7 g) was dissolved in ethanol (50 ml) and water (10 ml) containing sodium hydroxide (1.5 g). The mixture was refluxed for 20 hours then the solvent was removed. The residue was dissolved in water and treated with hydrochloric acid to give a white precipitate. This was collected by filtration and recrystallised from ethanol-water to give the title compound (0.56 g) m.p. 121°-123° C.

reactant | 9-(4-Chlorobenzenesulphonamido)nonanenitrile | 0.7 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCCCCC#N | C15H21ClN2O2S
reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 9-(4-Chlorobenzenesulphonamido)nonanoic Acid | 0.56 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCCCCC(=O)O | C15H22ClNO4S
